US08227489B2
5.2 N-[6-(Dimethylamino)-5-methylpyridin-3-yl]-5-fluoro-1-(pyridin-4-ylmethyl)-1H-indole-2-carboxamide (Compound No. 19)
Compound No. 19 is prepared from 5-fluoro-1-(pyridin-4-ylmethyl)-1H-indole-2-carboxylic acid, synthesized in stage 5.1, and 3-amino-5-methyl-6-(dimethylamino)pyridine (GB 870 027) according to a process similar to that described in example No. 3.

reactant | 5-fluoro-1-(pyridin-4-ylmethyl)-1H-indole-2-carboxylic acid | FC=1C=C2C=C(N(C2=CC1)CC1=CC=NC=C1)C(=O)O | C15H11FN2O2
reactant | 3-amino-5-methyl-6-(dimethylamino)pyridine | NC=1C=NC(=C(C1)C)N(C)C | C8H13N3
product | N-[6-(Dimethylamino)-5-methylpyridin-3-yl]-5-fluoro-1-(pyridin-4-ylmethyl)-1H-indole-2-carboxamide | CN(C1=C(C=C(C=N1)NC(=O)C=1N(C2=CC=C(C=C2C1)F)CC1=CC=NC=C1)C)C | C23H22FN5O
